Name:  ___.             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Mercaptopurine / ibuprofen
 
Attending: ___.
 
Chief Complaint:
Pancreatic adenocarcinoma s/p neoadjuvant therapy 
 
Major Surgical or Invasive Procedure:
___: PROCEDURES:
1.  Exploratory laparoscopy.
2.  Intraoperative laparoscopic ultrasound of liver
3.  Liver biopsy of segment VIII.
4.  Radical pancreaticoduodenectomy with en bloc resection of 
lateral portal vein and distal stomach.
5.  Portal venorrhaphy to be dictated by Dr. ___.
6.  Placement of gold fiducials.
7.  End-to-side ductal mucosa modified Blumgart style
pancreaticojejunostomy, ductal mucosa.
8.  End-to-side hepaticojejunostomy after cholecystectomy.
9.  Polya gastrojejunostomy.
10.  Placement of transgastric feeding jejunostomy tube.

 
History of Present Illness:
Mr. ___ is a ___ man with a history of Crohn's 
disease limited to his colon, rectum, and anus who underwent 
laparoscopic total proctocolectomy with intersphincteric 
proctectomy and end ileostomy in ___ ___ here at 
___. Pathology at that time demonstrated Crohns disease 
without dysplasia and one normal lymph node. Since then he has 
not undergone any further interrogation/endoscopy. Unfortunately 
in ___ he had progressive weight loss and jaundice and 
was found to have a pancreatic mass with an associated CA ___ 
of 56,900. He also was found to have Lupus coagulant and has 
been on prophylactic Lovenox since ___. Patient 
underwent neoadjavant treatment (not completed secondary to poor 
tolerance), and was followed by Dr. ___ in his pancreas and 
liver institute for possible surgical resection. Today patient 
present for elective Whipple resection.

On staging imaging work up he was also found to have a right 
middle lobe lung lesion which was percutaneous-biopsy negative 
for malignancy (biopsy demonstrated granulomatous inflammation). 
AFB, micro/gram stains were also negative from that biopsy.  

He had been started on neoadjuvant chemotherapy with FOLFIRINOX 
this past ___, which led to severe nausea with PO intolerance. 
He also had intolerance to tube feeds via subsequently-placed NJ 
tube which we had recommended (placed by ___ ___. Despite 
this, he underwent 5 cycles in total of preoperative FOLFIRINOX, 
with his last dose having been administered on ___. He 
did
lose quite a bit of weight in the process, at one point weighing 
115 lbs from his original weight around 140 lbs one year ago.  
Mr. ___ in is improving from a malnutrition standpoint. 
His laboratory values included an Albumin of 3.1 on ___ 
starting chemotherapy his CA ___ has come down from a high of 
56,900 in ___ to 627 on ___. . He has gained an additional 
4.8 pounds in that time. He feels significantly stronger and now 
eating one good meal and three to four smaller meals a day. His 
weight today is 122.8 pounds, and BMI is 20.4 from 20.0.  

He reports an 85% return to his functional and energy status 
from one year ago. He reports he is now exercising multiple 
times a day including use of hand weights and leg and arm raises 
___, using the treadmill 20 minutes a day, and notes he is 
increasing his treadmill use with a goal of walking ___ a mile a 
day. His wife notes he is much more independent around the 
house. His activity involves sitting on the couch less than ___ 
of the day. Overall he currently has an ECOG score of 2.

CTA on ___ revealed a stable known pancreatic head lesion, 
without evidence of metastases, a stable RML lesion (previously 
___ biopsied as above), and new slight narrowing of the main 
portal vein at the SMV confluence, where there is some, but less 
than 180 degree, contact with the mass. He presented to ___ on 
___ for planned whipple procedure 

 
Past Medical History:
PAST MEDICAL HISTORY: 
- Crohn's Disease (s/p ___ colectomy and ileostomy)  
- Nephrolithiasis 
- Anxiety  
- pancreatic adenocarcinoma s/p neoadjuvant therapy 
- Depression 
 
Social History:
___
Family History:
Father with DM. Maternal grandmother with question of breast 
cancer (died in ___ or ___. Paternal grandparents died young 
age.
 
Physical Exam:
Physical Exam at Discharge: 
 
Pertinent Results:
RECENT LABS:

___ 05:05AM BLOOD WBC-6.3 RBC-2.74* Hgb-8.8* Hct-27.0* 
MCV-99* MCH-32.1* MCHC-32.6 RDW-14.5 RDWSD-51.5* Plt ___
___ 06:08AM BLOOD Glucose-107* UreaN-17 Creat-0.9 Na-142 
K-4.9 Cl-102 HCO3-27 AnGap-13
___ 05:00AM BLOOD ALT-10 AST-13 LD(LDH)-163 AlkPhos-82 
TotBili-0.4
___ 06:08AM BLOOD Calcium-9.6 Phos-3.9 Mg-1.9
___ 09:34AM ASCITES Amylase-7 Triglyc-599
___ 09:34AM ASCITES Amylase-7 Triglyc-188
___ 07:15PM OTHER BODY FLUID Amylase-15
___ 07:15PM OTHER BODY FLUID Amylase-10
 
Brief Hospital Course:
Patient is a ___ year old M with pancreatic adenocarcinoma in the 
head of the pancreas who is status post neoadjuvant 
chemoradiation who presented to ___ for a scheduled whipple 
procedure. He was taken to the OR on ___ for an elective 
whipple procedure for resection of his tumor. Approximately 1hr 
into case ___ was noted have low urine output. A blood 
gas and chem10 confirmed that he had metabolic acidotic (pH 7.1) 
and acute kidney injury (Cr 1.8 from baseline approx. 0.7-1.3). 
He was given fluids in the OR and had multiple ABGs. His urine 
output picked up and his ABGs normalized. In the OR his EBL was 
100cc, IVF 4300cc, h received 1u PRBC, and UOP 300cc. He was 
kept intubated in the immediate post-operative period and 
overnight. Renal was consulted and recommended bicarbonate to be 
given in the immediate post-operative period due to the 
acidosis. 
On POD1 he was extubated and no additional bicarb was given his 
complete resolution of acidosis. He was given 2u pRBC for acute 
blood loss anemia. He bumped appropriately from 21.2 to 26.4. 
His NGT was kept in place. His creatinine was monitored and 
trended down to WNL. 
On POD 2, patient was transferred to the floor NPO/NGT, IV 
fluids, Foley catheter, JP drain x 2, and epidural for pain 
control. Patient was hemodynamically stable.

Neuro: His-operative pain was initially well controlled with an 
epidural, but he was split to PCA/epidural due to soft blood 
pressures. He was subsequently converted to PCA alone.   On POD 
8 he was converted to oral pain medication when tolerating clear 
liquids. He was continued on PO pain medications throughout the 
hospitalization with his pain well controlled. 

Psych: Patient has a history of major depression, he is on 
Celexa and Clonazepam at home. During hospitalization patient 
experienced exacerbation of symptoms secondary to prolong 
hospital stay, large ileostomy and uncertainly of outcomes. 
Psychiatry was consulted and patient was provided with Remeron 
for better sleep and Dronabinol to increase appetite. After 
patient progress with recovery, symptoms of depression subsided 
and he returned to his base line.   

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.  
 
Pulm: During this hospitalization, the patient ambulated early 
and frequently, was adherent with respiratory toilet and 
incentive spirometry, and actively participated in the plan of 
care. 

GI: The NG tube was discontinued on POD#4. The patient was 
started on sips of clears on POD#5, On POD 2 he was started on 
tube feeds (Vital 1.5).  Unfortunately on POD 6 his JP output 
became thicker and he was noted to have high triglycerides in 
the fluid. His TF were held.  He was subsequently restared on TF 
(Vivonex) on POD 7 and started on TPN on POD 8 due to 
intolerance from secretory diarrhea/high ileostomy output. He 
continue to have large ileostomy output despite starting on 
Octreotide, Psyllium, Opium Tincture, Imodium, Creon and 
Cyproheptadine. TF was discontinued on POD 10 and patient 
remained on TPN, his diet was advanced to full liquids as 
chylous drainage subsided. He was subsequently advanced to 
regular diet on POD 10 which he tolerated well. His chylous leak 
improved and repeat JP amylase on tube feeds were 15,10 
respectively.  On POD 12 he was started on dronabinol to improve 
his appetite/PO intake. On POD 14 his dronabinol was doubled and 
was restarted on tube feeds given his poor caloric intake. 
Patient was restarted on Vital 1.5 and TPN was weaned off. With 
the combination of the aforementioned mediations patient's 
ostomy output remained in the ~1500cc range throughout the 
remainder of his hospitalization. On POD 25, Tincture of Opium 
was discontinued secondary to abdominal cramps, and on POD 26 
Octreotide was discontinued as well.  

GU: He initially had a foley catheter in place. The foley 
catheter was discontinued at midnight of POD#4. The patient 
subsequently voided without problem

Heme: The patient received 3 units of pRBC post operative for 
acute blood loss anemia. Patient blood count was follow during 
hospitalization and no further transfusion were required.

Endocrine: The patient's blood sugar was monitored regularly 
throughout the stay; it was noticed that BS were elevated 
especially during ___ diabetic team was contacted 
for management of hyperglycemia. Patient's blood sugar improved 
prior to discharge. He was discharged with a prescription of 
sliding scale insulin along with the appropriate administration 
supplies 

ID: Given his high ileostomy output, he was checked for 
c.difficile on pod15, which was negative. Fever curve and CBC 
were monitored throughout his hospitalization. 

At the time of discharge on ___, the patient was doing 
well, afebrile with stable vital signs.  The patient was 
tolerating a regular diet and cycled TF, ambulating, voiding 
without assistance, and pain was well controlled. Staples were 
removed, and steri-strips placed. The patient was discharged 
home with services. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. ClonazePAM 0.5-1 mg PO QHS:PRN sleep 
2. Citalopram 40 mg PO ___ 
3. Enoxaparin Sodium 40 mg SC ___  
Start: ___, First Dose: Next Routine Administration Time 
4. Omeprazole 40 mg PO ___ 
5. Ranitidine 300 mg PO ___ 
6. Thiamine 100 mg PO ___ 
7. Ondansetron 4 mg PO Q8H:PRN nausea 
8. Prochlorperazine 10 mg PO Q6H:PRN nausea 
9. Diphenoxylate-Atropine 1 TAB PO Q6H:PRN ostomy output 
10. LORazepam 0.5 mg PO Frequency is Unknown anxiety 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override:  
do not exceed more then 3000 mg/day  
2.  Banatrol Plus (banana flakes-t-galactooligos.) 1 pack oral 
TID W/MEALS 
RX *banana flakes-t-galactooligos. [Banatrol Plus]  1 powder(s) 
by mouth three times a day w/ meals Disp #*30 Packet Refills:*0 
3.  Creon (lipase-protease-amylase) ___ unit 
oral TID W/MEALS 
please take 3 caps with every meal  
RX *lipase-protease-amylase [Creon] 36,000 unit-114,000 
unit-180,000 unit 1 capsule(s) by mouth three times a day Disp 
#*30 Capsule Refills:*0 
4.  Cyproheptadine 4 mg PO BID 
RX *cyproheptadine 4 mg 1 tablet by mouth twice a day Disp #*30 
Tablet Refills:*0 
5.  Dronabinol 5 mg PO BID 
RX *dronabinol 5 mg 1 capsule(s) by mouth twice a day Disp #*30 
Capsule Refills:*0 
6.  HumaLOG KwikPen Insulin (insulin lispro) 100 unit/mL 
subcutaneous qachs 
as per sliding scale up to 20 units per day 
RX *insulin lispro [Humalog KwikPen Insulin] 100 unit/mL 1 unit 
sc qachs Disp #*50 Syringe Refills:*0 
7.  Insulin SC 
      Sliding Scale

Fingerstick QACHS
Insulin SC Sliding Scale using HUM Insulin 
8.  Insupen (pen needle, diabetic) 32 gauge x ___ sc 5x ___ 
RX *pen needle, diabetic [BD Ultra-Fine Nano Pen Needles] 32 
gauge X ___  5x ___ Disp #*100 Container Refills:*2 
9.  LOPERamide 8 mg PO TID 
RX *loperamide 2 mg 4 tabs by mouth three times a day Disp #*40 
Tablet Refills:*0 
10.  Mirtazapine 30 mg PO QHS 
RX *mirtazapine 30 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0 
11.  Multivitamins W/minerals 1 TAB PO ___  
12.  OneTouch Delica Lancets (lancets) 30 gauge miscellaneous 4x 
___ 
test BG 4x ___  
RX *lancets [OneTouch Delica Lancets] 30 gauge  4x ___ Disp 
#*100 Each Refills:*2 
13.  OneTouch Verio (blood sugar diagnostic) 1 strip 
miscellaneous 4x ___ 
test BG 4x ___ 
RX *blood sugar diagnostic [OneTouch Verio]   4x ___ Disp 
#*100 Strip Refills:*2 
14.  Citalopram 40 mg PO ___  
15.  ClonazePAM 0.5-1 mg PO QHS:PRN sleep  
16.  Diphenoxylate-Atropine 1 TAB PO Q6H:PRN ostomy output  
17.  Omeprazole 40 mg PO ___  
18.  Ondansetron 4 mg PO Q8H:PRN nausea  
19.  Prochlorperazine 10 mg PO Q6H:PRN nausea  
20.  Ranitidine 300 mg PO ___  
21.  Thiamine 100 mg PO ___  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1. Pancreatic ductal adenocarcinoma 
2. Acute kidney injury 
3. Severe Malnutrition 
4. Chylous leak.
5. Severe post operative diarrhea
6. Severe depression 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,
You were admitted to the surgery service at ___ for surgical 
resection of your pancreatic mass. Your surgery was complicated 
by acute kidney injury, which was treated with fluid boluses. 
Your post operative recovery was complicated by anemia, which 
was treated with blood transfusions; high ileostomy output, 
which was treated with various medications and bowel rest; and 
chylous leak, which was treated with TPN and bowel rest. You are 
now safe to return home to complete your recovery with the 
following instructions:
.
Please call Dr. ___ office at ___ or Office RNs at 
___ if you have any questions or concerns. 
.
Please call your doctor or nurse practitioner if you experience 
the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain is not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.
.
General Discharge Instructions:
Please resume all regular home medications , unless specifically 
advised not to take a particular medication.  Also, please take 
any new medications as prescribed.
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.
Avoid driving or operating heavy machinery while taking pain 
medications.
Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.
.
Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water.  Gently pat the area dry.
*If you have steri-strips, they will fall off on their own.  
Please remove any remaining strips ___ days after surgery.
.
JP Drain x 2 Care:
*Please look at the site every day for signs of infection 
(increased redness or pain, swelling, odor, yellow or bloody 
discharge, warm to touch, fever).
*Maintain suction of the bulb.
*Note color, consistency, and amount of fluid in the drain.  
Call the doctor, ___, or ___ nurse if the amount 
increases significantly or changes in character.
*Be sure to empty the drain frequently.  Record the output, if 
instructed to do so.
*You may shower; wash the area gently with warm, soapy water.
*Keep the insertion site clean and dry otherwise.
*Avoid swimming, baths, hot tubs; do not submerge yourself in 
water.
*Make sure to keep the drain attached securely to your body to 
prevent pulling or dislocation.
. 
Ileostomy Care:  
The most common complication from ileostomy is dehydration. The 
output from the stoma is stool from the small intestine and the 
water content is very high. The stool is no longer passing 
through the large intestine which is where the water from the 
stool is reabsorbed into the body and the stool becomes formed. 
You must measure your ileostomy output. The output from the 
stoma should not be more than 1500 cc or less than 500cc. If you 
find that your output has become too much or too little, please 
call the office for advice. Keep yourself well hydrated, if you 
notice your ileostomy output increasing, take in more 
electrolyte drink such as Gatorade. Please monitor yourself for 
signs and symptoms of dehydration including: dizziness 
(especially upon standing), weakness, dry mouth, headache, or 
fatigue. If you notice these symptoms please call the office or 
return to the emergency room for evaluation if these symptoms 
are severe. You may eat a regular diet with your ileostomy. 
However it is a good idea to avoid fatty or spicy foods.  
 
 
Followup Instructions:
___